US08008295B2
5-Bromo-3-({[4-(methylsulfonyl)benzyl]amino}sulfonyl)-1H-indole-2-carboxamide
Following the procedures described in Steps D and E of Example 1, replacing in Step D ethyl 5-chloro-3-(chlorosulfonyl)-1-(phenylsulfonyl)-1H-indole-2-carboxylate with ethyl 5-bromo-3-(chlorosulfonyl)-1-(phenylsulfonyl)-1H-indole-2-carboxylate, and methylamine hydrochloride with 4-(methylsulfonyl)benzylamine hydrochloride, the title compound was obtained. HRMS (ES) exact mass calculated for C17H17BrN3O5S2 (M+H+): 485.9788. Found 485.9784.

reactant | ethyl 5-chloro-3-(chlorosulfonyl)-1-(phenylsulfonyl)-1H-indole-2-carboxylate | ClC=1C=C2C(=C(N(C2=CC1)S(=O)(=O)C1=CC=CC=C1)C(=O)OCC)S(=O)(=O)Cl | C17H13Cl2NO6S2
reactant | ethyl 5-bromo-3-(chlorosulfonyl)-1-(phenylsulfonyl)-1H-indole-2-carboxylate | BrC=1C=C2C(=C(N(C2=CC1)S(=O)(=O)C1=CC=CC=C1)C(=O)OCC)S(=O)(=O)Cl | C17H13BrClNO6S2
reactant | methylamine hydrochloride | Cl.CN
reactant | 4-(methylsulfonyl)benzylamine hydrochloride | Cl.CS(=O)(=O)C1=CC=C(CN)C=C1
product | 5-Bromo-3-({[4-(methylsulfonyl)benzyl]amino}sulfonyl)-1H-indole-2-carboxamide | BrC=1C=C2C(=C(NC2=CC1)C(=O)N)S(=O)(=O)NCC1=CC=C(C=C1)S(=O)(=O)C | C17H16BrN3O5S2
